US07884124B2
2.1.b) Synthesis of 5-benzyl-furan-2-carbaldehyde
The title compound was synthesized from 5-formylfuran-2-ylboronic acid (0.80 g, 5.7 mmol) and benzyl diethyl phosphate (1.5 g, 6.3 mmol) using the same conditions used to synthesize 4-(4-chlorobenzyl)thiophene-2-carbaldehyde. Purification by flash chromatography yielded 5-benzyl-furan-2-carbaldehyde as a brown solid (0.37 g, 65%). 1H NMR (400 MHz, CDCl3) δ ppm 9.56 (s, 1H) 7.29-7.38 (m, 3H) 7.24-7.28 (m, 2H) 7.17 (d, J=3.5 Hz, 1H) 6.19 (d, J=3.6 Hz, 1H) 4.07 (s, 2H).

reactant | 5-formylfuran-2-ylboronic acid | 5.7 mmol, 0.80 g | C(=O)C1=CC=C(O1)B(O)O | C5H5BO4
reactant | benzyl diethyl phosphate | 6.3 mmol, 1.5 g | P(=O)(OCC1=CC=CC=C1)(OCC)OCC | C11H17O4P
reactant | 4-(4-chlorobenzyl)thiophene-2-carbaldehyde | ClC1=CC=C(CC=2C=C(SC2)C=O)C=C1 | C12H9ClOS
product | 5-benzyl-furan-2-carbaldehyde | 0.37 g, 65% | C(C1=CC=CC=C1)C1=CC=C(O1)C=O | C12H10O2
